US06001331
(E)-{4-[2-(5-Chlorobenzothiazol-2-yl)vinyl]phenyl}dimethylamine
The procedure of Cuadro, et al., Il Farmaco., 47:477-488 (1992), was followed. A suspension of 2-methyl-5-chloro-benzothiazole (3.78 g, 20.6 mmol), 4-(dimethylamino)benzaldehyde (3.04 g, 20.4 mmol), and 0.5 g of benzyltriethylammonium chloride in 30 mL of 50% aqueous sodium hydroxide solution was mechanically stirred in an ultrasonic bath at room temperature for 12 hours. Water (20 mL) was added, the mixture was cooled, filtered, and the solid was washed with water to give the title compound as a yellow solid, mp 182-184° C.

reactant | 2-methyl-5-chloro-benzothiazole | 20.6 mmol, 3.78 g | CC=1SC2=C(N1)C=C(C=C2)Cl | C8H6ClNS
reactant | 4-(dimethylamino)benzaldehyde | 20.4 mmol, 3.04 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | Water | 20 mL | O | H2O
catalyst | benzyltriethylammonium chloride | 0.5 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | sodium hydroxide | 30 mL | [OH-].[Na+]
product | (E)-{4-[2-(5-Chlorobenzothiazol-2-yl)vinyl]phenyl}dimethylamine | ClC=1C=CC2=C(N=C(S2)/C=C/C2=CC=C(C=C2)N(C)C)C1 | C17H15ClN2S
